US07449475B2
i) 1′-Benzyl-5-fluoro-3H-spiro[1-benzofuran-2,4′-piperidine]
To a stirring suspension of magnesium strip (763 mg) in diethyl ether (7 mL) was added a crystal of iodine followed by (0.4 mL of 2-(bromomethyl)-1,4-difluorobenzene under nitrogen. The reaction mixture was initiated with a high intensity heat gun, 2-(bromomethyl)-1,4-difluorobenzene 5.0 g, 24.25 mmol) in diethyl ether (7 mL) was added slowly maintaining gentle reflux. After addition was completed the reaction mixture was stirred at reflux for 100 min, cooled to room temperature. To this reaction mixture a solution of 1-benzylpiperidin-4-one (4.57 g, 24.25 mmol) in diethyl ether (12 mL) was added dropwise with vigorous stirring. After addition was completed the reaction mixture was left at room temperature overnight. Aqueous NH4Cl solution was added and stirred at room temperature until hydrolysis was completed, extracted with diethyl ether. The organic layer was washed with H2O, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel flash chromatography (0-1% methanol in dichloromethane, 0.2% NH4OH) to give intermediate 1-benzyl-4-(2,5-difluorobenzyl)piperidin-4-ol (2.74 g) containg large quantities of unknown impurities. To a suspension of NaH (55%, 1.12 g, 26.0 mmol) in toluene (10 mL) was slowly added a solution of 1-benzyl-4-(2,5-difluorobenzyl)piperidin-4-ol in toluene (15 mL). After addition was completed the reaction mixture was stirred at 110° C. (in a pre heated oil bath), after 5 min, DMF (9 mL) was added and stirring was continued at reflux temperature for 2 h. The reaction mixture was cooled to room temperature, H2O (20 mL) was added and extracted with ethyl acetate. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel flash chromatography (0-1.5% methanol in dichloromethane, 0.2% NH4OH) to give the subtitled compound (190 mg).

reactant | NaH | 26.0 mmol, 1.12 g | [H-].[Na+]
reactant | 1-benzyl-4-(2,5-difluorobenzyl)piperidin-4-ol | C(C1=CC=CC=C1)N1CCC(CC1)(O)CC1=C(C=CC(=C1)F)F | C19H21F2NO
reactant | DMF | 9 mL | CN(C)C=O | C3H7NO
reactant | H2O | 20 mL | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 1′-Benzyl-5-fluoro-3H-spiro[1-benzofuran-2,4′-piperidine] | 190 mg | C(C1=CC=CC=C1)N1CCC2(CC1)OC1=C(C2)C=C(C=C1)F | C19H20FNO
